US07816371B2
a. (R)-4-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)pentyl acetate
Into a round bottom flask was combined 5-nitro-isochromen-1-one (5.50 g, 0.0259 mol), (R)-2-amino-4-methylpentan-1-ol (6.07 g, 0.0518 mol) and methanol (160 mL, 4.1 mol). The mixture was heated at reflux for 3 hours. The mixture was allowed to cool, reduced in vacuo and dried on high vacuum for approximately 1 hour. methylene chloride (200 mL, 3 mol) and acetyl chloride (4.1 g, 0.052 mol) were added and the mixture was heated at 50° C. for 3 hours. The resulting solution was reduced in vacuo and purified. The mixture was purified by column chromatography using a methanol:methylene chloride (0-3%) gradient. The combined pure fractions were reduced in vacuo to yield the title compound as a dark yellow solid which was taken to the next step without further purification.

reactant | 5-nitro-isochromen-1-one | 0.0259 mol, 5.50 g | [N+](=O)([O-])C1=C2C=COC(C2=CC=C1)=O | C9H5NO4
reactant | (R)-2-amino-4-methylpentan-1-ol | 0.0518 mol, 6.07 g | N[C@@H](CO)CC(C)C | C6H15NO
reactant | methanol | 4.1 mol, 160 mL | CO | CH4O
reactant | methylene chloride | 3 mol, 200 mL | C(Cl)Cl | CH2Cl2
reactant | acetyl chloride | 0.052 mol, 4.1 g | C(C)(=O)Cl | C2H3ClO
product | (R)-4-Methyl-2-(5-nitro-1-oxoisoquinolin-2(1H)-yl)pentyl acetate | C(C)(=O)OC[C@@H](CC(C)C)N1C(C2=CC=CC(=C2C=C1)[N+](=O)[O-])=O | C17H20N2O5
